US06972288B1
4-[(3-chloro-4-fluorophenyl)amino]-6-{[4-(2,2-dimethyl-6-oxo-morpholin-4-yl)-1-oxo-2-buten-1-yl]amino}-7-cyclopropylmethoxy-quinazoline
15 mg of p-toluenesulphonic acid monohydrate are added to 150 mg of 4-[(3-chloro-4-fluorophenyl)amino]-6-[(4-{N-[(ethoxycarbonyl)methyl]-N-(2-hydroxy-2-methyl-propyl)amino}-1-oxo-2-buten-1-yl)amino]-7-cyclopropylmethoxy-quinazoline in 2.5 ml of acetonitrile. The solution formed is stirred first for three hours at ambient temperature, then refluxed for a further two hours until the reaction is complete. For working up, the reaction mixture is combined with 30 ml of ethyl acetate. The organic phase is separated off, washed with saturated sodium hydrogen carbonate solution and saturated sodium chloride solution, dried over magnesium sulphate and concentrated by evaporation. The oily yellow residue is stirred with diethylether, whereupon a light yellow solid crystallises out, which is filtered off and dried. Yield: 85 mg (61% of theory), Melting point: 140-142° C. Mass spectrum (ESI+): m/z=554, 556 [M+H]+

reactant | p-toluenesulphonic acid monohydrate | 15 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 4-[(3-chloro-4-fluorophenyl)amino]-6-[(4-{N-[(ethoxycarbonyl)methyl]-N-(2-hydroxy-2-methyl-propyl)amino}-1-oxo-2-buten-1-yl)amino]-7-cyclopropylmethoxy-quinazoline | 150 mg | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)NC(C=CCN(CC(C)(C)O)CC(=O)OCC)=O)OCC1CC1 | C30H35ClFN5O5
reactant | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 2.5 ml | C(C)#N | C2H3N
product | 4-[(3-chloro-4-fluorophenyl)amino]-6-{[4-(2,2-dimethyl-6-oxo-morpholin-4-yl)-1-oxo-2-buten-1-yl]amino}-7-cyclopropylmethoxy-quinazoline | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)NC(C=CCN1CC(OC(C1)=O)(C)C)=O)OCC1CC1 | C28H29ClFN5O4
